US04481142
2-Amino-9-chloro-7-phenyl-5H-pyrimido[5,4-d][2]benzazepine
A stirred suspension of 10 g (0.032 mol) of 8-chloro-3,4-dihydro-4-(dimethylaminomethylene)-1-phenyl-5H-2-benzazepin-5-one and 8.5 g (0.047 mol) of guanidine carbonate in 250 ml of methanol was treated at room temperature, under argon, with 5.1 g (0.094 mol) of sodium methylate in one portion. Methylene chloride (150 ml) was added after 10 min and stirring was continued. The same quantities of sodium methylate and guanidine carbonate were added two more times at 2 hr intervals and stirring was continued overnight. After diluting with 250 ml of methylene chloride, the mixture was washed with water, dried over sodium sulfate and evaporated at reduced pressure. Crystallization of the residue from ethanol gave light tan crystals: mp 209°-210° C. Recrystallization of a sample from methylene chloride/ethyl acetate gave off-white prisms: mp 210°-211° C.

reactant | 8-chloro-3,4-dihydro-4-(dimethylaminomethylene)-1-phenyl-5H-2-benzazepin-5-one | 0.032 mol, 10 g | ClC1=CC2=C(C(C(CN=C2C2=CC=CC=C2)=CN(C)C)=O)C=C1 | C19H17ClN2O
reactant | guanidine carbonate | 0.047 mol, 8.5 g | C(O)(O)=O.NC(=N)N
reactant | sodium methylate | 0.094 mol, 5.1 g | C[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-9-chloro-7-phenyl-5H-pyrimido[5,4-d][2]benzazepine | NC=1N=CC=2CN=C(C3=C(C2N1)C=CC(=C3)Cl)C3=CC=CC=C3 | C18H13ClN4
